US07687534B2
Step A. tert-Butyl N-(4-{1-[1-(3-chloro-4-methoxyphenyl)-3-oxopropyl]pentyl}benzoyl)-β-alaninate
N-Chlorosuccinamide (40 mg, mmol) was added to an acetonitrile solution (2 ml) containing enantiopure tert-butyl N-(4-{1-[1-(4-methoxyphenyl)-3-oxopropyl]pentyl}benzoyl)-β-alaninate (20 mg, 0.42 mol), which was prepared following the procedure described in EXAMPLE 1. The solution was then heated in a screw cap tube for 35 minutes at 85° C. The solution was concentrated and the residue purified by PTLC using an EtOAC/hexanes eluent to give a mixture of compounds containing the title compound and the corresponding 3,5-diCl analog (˜30% by NMR). LC1 4.00 min. (M+H) 460, di Cl LC1 4.15 min. (M+H) 494 selected data 1H NMR (400 MHz, CDCl3): δ 9.35 (s, 1H); 7.72 (d, J=8.2 Hz, 2H); 7.23-7.15 (m, 3H); 6.86 (d, J=8.4 Hz, 2H); 3.88 (S, 3H); 3.68 (q, J=5.9 Hz, 2H); 3.29-3.23 (m, 1H); 2.75-2.65 (m, 1H); 2.56-2.50 (m, 2H); 2.39-2.31 (m, 1H); 1.46 (s, 9H); 0.66 (t, 3H).

reactant | N-Chlorosuccinamide | 40 mg | ClNC(CCC(=O)N)=O | C4H7ClN2O2
reactant | tert-butyl N-(4-{1-[1-(4-methoxyphenyl)-3-oxopropyl]pentyl}benzoyl)-β-alaninate | 0.42 mol, 20 mg | COC1=CC=C(C=C1)C(CC=O)C(CCCC)C1=CC=C(C(=O)NCCC(=O)OC(C)(C)C)C=C1 | C29H39NO5
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | tert-Butyl N-(4-{1-[1-(3-chloro-4-methoxyphenyl)-3-oxopropyl]pentyl}benzoyl)-β-alaninate | ClC=1C=C(C=CC1OC)C(CC=O)C(CCCC)C1=CC=C(C(=O)NCCC(=O)OC(C)(C)C)C=C1 | C29H38ClNO5
